US05910506
Synthesis of 5-(3,5-dichlorophenylthio)-2-hydroxymethyl-4-isopropyl-1-(3-phenylpropyl)-1H-imidazole (Compound I-122).
To dry tetrahydrofuran was added 40 mg of 60% sodium hydride, and under ice-cooling, 200 mg of 5-(3,5-dichlorophenylthio)-4-isopropyl-2-(p-methoxybenzyloxymethyl)-1H-imidazole (101b)was added. After 20 minutes, 136 μl of 1-bromo-3-phenylpropane was added. After stirred at room temperature for 3 hours, the mixture was diluted with water and extracted with diethyl ether. The extract was dried over sodium sulfate, and the solvent was distilled off under reduced pressure. To thus-obtained oil were added 10 ml of ethanol and 20 ml of 36% hydrochloric acid, and the mixture was stirred at 90° C. for 2 hours. After completion of the reaction, the solvent was distilled off under reduced pressure, an aqueous sodium hydrogen carbonate solution was added, and extracted with ethyl acetate. The extract was dried over sodium sulfate, and the solvent was distilled off under reduced pressure. The residue was purified by silica gel chromatography (hexane:ethyl acetate=1:1)to give 80 mg of Compound I-122 (yield 40%).

reactant | sodium hydride | 40 mg | [H-].[Na+]
reactant | 5-(3,5-dichlorophenylthio)-4-isopropyl-2-(p-methoxybenzyloxymethyl)-1H-imidazole | 200 mg | ClC=1C=C(C=C(C1)Cl)SC1=C(N=C(N1)COCC1=CC=C(C=C1)OC)C(C)C | C21H22Cl2N2O2S
reactant | 1-bromo-3-phenylpropane | 136 μl | BrCCCC1=CC=CC=C1 | C9H11Br
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | water | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 5-(3,5-dichlorophenylthio)-2-hydroxymethyl-4-isopropyl-1-(3-phenylpropyl)-1H-imidazole | 80 mg, yield 40% | ClC=1C=C(C=C(C1)Cl)SC1=C(N=C(N1CCCC1=CC=CC=C1)CO)C(C)C | C22H24Cl2N2OS
